US04251541
Trans-1-Phenylmethyl-4-phenylthio-3-pyrrolidinol
A mixture of 8.8 g. (0.05 mole) of 1-benzyl-3,4-epoxypyrrolidine, 6.0 g. (0.055 mole) of thiophenol, and 3 drops of water was heated on a steam bath overnight. Upon cooling the mixture, a solid crystallized. The solid was dissolved in methylene chloride and the methylene chloride solution was washed with two 50-ml portions of 5% sodium hydroxide. The methylene chloride layer was dried over anhydrous sodium sulfate and concentrated to give a yellow oil which solidified on standing. The solid was recrystallized from cyclohexane to give 8.6 g. (60%) of a tan solid, m.p. 97°-99°.

reactant | 1-benzyl-3,4-epoxypyrrolidine | 0.05 mole | C(C1=CC=CC=C1)N1CC2C(C1)O2 | C11H13NO
reactant | thiophenol | 0.055 mole | C1(=CC=CC=C1)S | C6H6S
catalyst | water | 3 drops | O | H2O
product | Trans-1-Phenylmethyl-4-phenylthio-3-pyrrolidinol | C1(=CC=CC=C1)CN1C[C@H]([C@@H](C1)SC1=CC=CC=C1)O | C17H19NOS
